US04645765
To a solution of methyl 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate (5 mg) in pyridine (1.0 ml) was added acetic anhydride (0.5 ml), and the solution was stirred for 5 hours at room temperature. The reaction mixture was evaporated to dryness in vacuo and the residue was subjected to preparative thin layer chromatography, which was developed with a mixture of chloroform and methanol (30:1 v/v) to afford methyl 6,9-diacetoxy-11-acetyl-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate (5 mg).

reactant | methyl 6,9-diacetoxy-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate | 5 mg | C(C)(=O)OC=1C=C(C=C2N3CC4NC4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(=O)OC | C19H21N3O9
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | methyl 6,9-diacetoxy-11-acetyl-8-carbamoyloxymethyl-14-oxa-1,11-diazatetracyclo[7.4.1.02,7.010,12 ]tetradeca-2,4,6-triene-4-carboxylate | 5 mg | C(C)(=O)OC=1C=C(C=C2N3CC4N(C4C(C(C12)COC(N)=O)(O3)OC(C)=O)C(C)=O)C(=O)OC | C21H23N3O10
